US05266319
Hydrolysis of geraniin in boiling water, gallic acid ellagic acid and corilagin were produced, which were identified by thin-layer co-chromatography with authentic samples.

reactant | geraniin | C1=C(C=C(C(=C1O)O)O)C(=O)O[C@H]2[C@H]3[C@@H]4[C@@H]([C@H](O2)COC(=O)C=5C=C(C(=C(C5C6=C(C=C(C(=C6O)O)O)C(=O)O4)O)O)O)OC(=O)C7=CC(=O)[C@]8(C([C@@H]7C=9C(=CC(=C(C9O8)O)O)C(=O)O3)(O)O)O | C41H28O27
solvent | water | O | H2O
product | corilagin | C=1C(=CC(=C(C1O)O)O)C(=O)O[C@H]2[C@@H]([C@@H]3[C@@H]([C@H](O2)COC(=O)C=4C=C(C(=C(C4C5=C(C=C(C(=C5O)O)O)C(=O)O3)O)O)O)O)O | C27H22O18
